US04044140
Cyanomethyl 5-(Triphenylmethyl)-Picolinate
To a stirred mixture of 5 g. 5-(triphenylmethyl)-picolinic acid and 6.1 g. triethylamine in 150 ml. acetone add 4.5 g. of chloroacetonitrile. Heat the resulting mixture at reflux 15 hr., cool, filter. Concentrate the filtrate to a residue and triturate residue with water, dry. Recrystallize twice from isopropyl ether-ethanol to obtain the product of this example, m.p. 173°-175°.

reactant | 5-(triphenylmethyl)-picolinic acid | C1(=CC=CC=C1)C(C=1C=CC(=NC1)C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H19NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
solvent | acetone | CC(=O)C | C3H6O
product | Cyanomethyl 5-(Triphenylmethyl)-Picolinate | C1(=CC=CC=C1)C(C=1C=CC(=NC1)C(=O)OCC#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H20N2O2
